US07642259B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}benzoic acid
A mixture of methyl 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}benzoate (3.6 g, 8.2 mmol) in THF (50 mL) and water (50 mL) was treated with 1M sodium hydroxide solution (8.2 mL, 8.2 mmol) and allowed to stir at RT for 210 minutes. The THF was removed in vacuo, the residue filtered and extracted with ethyl acetate (30 mL). The aqueous layer was acidified with 2N hydrochloric acid, extracted with ethyl acetate (3×50 mL) and the combined organic extracts washed with water (10 mL), brine (10 mL) and concentrated in vacuo to give the desired material as a pale yellow foam (2.84 g). 1H NMR δ (CDCl3): 2.36-2.44 (m, 2H), 4.26 (t, 2H), 4.37 (t, 2H), 4.62-4.79 (m, 5H), 7.08 (t, 1H), 7.56-7.57 (m, 1H), 7.58-7.59 (m, 1H), 8.17 (d, 1H), 8.27 (d, 1H); m/z 426 (M+H)+, 424 (M−H)−

reactant | methyl 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}benzoate | 8.2 mmol, 3.6 g | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)OC)C=C(C1)OC(CF)CF)Cl | C20H19ClF2N2O5
reactant | sodium hydroxide | 8.2 mmol, 1M, 8.2 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}benzoic acid | 2.84 g | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)O)C=C(C1)OC(CF)CF)Cl | C19H17ClF2N2O5
